US08455483B2
a) tert-Butyl 4-(4-ethylthiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
A mixture of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (limiting reagent), and 4-ethylthiazole-2-carboxylic acid (1 molar equivalent) was suspended in DCM (4.5 volumes) and cooled to 16° C. To this was added triethylamine (5 molar equivalents) in portions. The thick suspension was cooled to 6° C. and T3P (1.1 molar equivalents of a 1.57M in THF) was added drop-wise at 5-15° C. over 0.5 hr. The reaction mixture was allowed to warm to 22° C. and stirred at 22° C. for 2 hr. The mixture was diluted with water (6.5 volumes, 4° C. exotherm) and the mixture was stirred for 10 mins; the aqueous was separated and extracted with DCM (4.5 volumes). The combined organics were washed saturated aq sodium bicarbonate solution (5.5 volumes) and 20% brine solution (1.5 volumes). The organics were dried over anhydrous sodium sulphate, filtered and evaporated to give a brown oil. Yield: 96% of theoretical.

reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | 4-ethylthiazole-2-carboxylic acid | 1 molar | C(C)C=1N=C(SC1)C(=O)O | C6H7NO2S
reactant | triethylamine | 5 molar | C(C)N(CC)CC | C6H15N
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-Butyl 4-(4-ethylthiazole-2-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | Yield: 96% | C(C)C=1N=C(SC1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C19H29N3O4S
